US07291619B2
1-[2-(Pyridin-3-yloxy)-phenyl]-piperazine
2-Bromophenol (355 mg, 2.05 mmol), 3-pyridyl-boronic acid (500 mg, 4.1 mmol), copper acetate (745 mg, 4.1 mmol) and pyridine (3.3 mL, 41 mmol) were added to dichloromethane (41 mL) and stirred for about 48 hours under air. The reaction was diluted with water (50 mL) and the layers separated. The organic layer was washed with 5N NaOH. The organic layer was concentrated, and chromatographed on silica gel (MeOH/dichloromethane) to yield 3-(2-bromo-phenoxy)-pyridine (30 mg, 6%) as a yellow oil. MS found 249.1 M+1. 3-(2-Bromo-phenoxy)-pyridine was coupled to piperazine using the Buchwald chemistry described in preparation 1A to afford the title compound. LRMS (ESI+): 256.1 (M+1)

reactant | 3-(2-Bromo-phenoxy)-pyridine | BrC1=C(OC=2C=NC=CC2)C=CC=C1 | C11H8BrNO
reactant | piperazine | N1CCNCC1 | C4H10N2
product | 1-[2-(Pyridin-3-yloxy)-phenyl]-piperazine | N1=CC(=CC=C1)OC1=C(C=CC=C1)N1CCNCC1 | C15H17N3O
